US05194442
2,3-Dihydro-7-nitro-1-benzoxepin-5(4H)-one
40.5 g (0.25 mole) of 2,3-dihydro-1-benzoxepin-5(4H)-one are introduced at -10° C. into 400 ml of concentrated sulfuric acid while stirring. Coarsely crystalline sodium nitrate is slowly introduced at -5° C. to 0° C. whilst stirring vigorously. The mixture is then stirred at 0° C. for about 1 hour, during which the sodium nitrate slowly dissolves. The mixture is stirred into ice/water and, after about 30 minutes, filtered with suction and washed thoroughly with water. The residue on the filter is taken up in ethyl acetate, and the solution is separated from the water, dried over sodium sulfate, filtered and evaporated in vacuo. The residue is crystallized in ethyl acetate/cyclohexane.

reactant | 2,3-dihydro-1-benzoxepin-5(4H)-one | 0.25 mole, 40.5 g | O1CCCC(C2=C1C=CC=C2)=O | C10H10O2
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-Dihydro-7-nitro-1-benzoxepin-5(4H)-one | [N+](=O)([O-])C=1C=CC2=C(C(CCCO2)=O)C1 | C10H9NO4
